US06127354
(2E)-5-(N-(tert-Butoxycarbonyl)-N-methylamino)-5-methylhex-2-enoic acid (122 mg, 0.48 mmol) was dissolved in N,N-dimethylformamide (2 ml) and dichloromethane (2 ml). 1-Hydroxy-7-azabenzotriazole (65 mg, 0.48 mmol) was added. The solution was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (92 mg, 0.48 mmol) was added. The reaction mixture was stirred for 15 min at 0° C. A solution of (2R)-2-(methylamino)-3-(2-naphthyl)propionic acid N-methyl-N-phenethylamide (165 mg, 0.48 mmol) in dichloromethane (2 ml) and ethyldiisopropylamine (0.083 ml, 0.48 mmol) were added successively. The solution was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (50 ml) and washed with 10% aqueous sodium hydrogen sulfate solution (50 ml). The aqueous phase was extracted with ethyl acetate (2×10 ml). The combined organic layers were washed with saturated aqueous sodium hydrogen carbonate solution (50 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (80 g), using ethyl acetate/heptane 1:1 as eluent to give 204 mg of N-methyl-N-((3E)-4-(N-methyl-N-((1R)-1-(N-methyl-N-phenethylcarbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)-1,1-dimethylbut-3-enyl)carbamic acid tert-butyl ester.

reactant | (2E)-5-(N-(tert-Butoxycarbonyl)-N-methylamino)-5-methylhex-2-enoic acid | 0.48 mmol, 122 mg | C(C)(C)(C)OC(=O)N(C)C(C/C=C/C(=O)O)(C)C | C13H23NO4
reactant | 1-Hydroxy-7-azabenzotriazole | 0.48 mmol, 65 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 0.48 mmol, 92 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-2-(methylamino)-3-(2-naphthyl)propionic acid N-methyl-N-phenethylamide | 0.48 mmol, 165 mg | CN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)CCC1=CC=CC=C1 | C23H26N2O
reactant | ethyldiisopropylamine | 0.48 mmol, 0.083 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-methyl-N-((3E)-4-(N-methyl-N-((1R)-1-(N-methyl-N-phenethylcarbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)-1,1-dimethylbut-3-enyl)carbamic acid tert-butyl ester | 204 mg | C(C)(C)(C)OC(N(C(C\C=C\C(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N(CCC1=CC=CC=C1)C)=O)C)=O)(C)C)C)=O | C36H47N3O4
